US05814653
6-(4-chlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
To a mixture of 10.6 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 14.0 mg (0.12 mMol) polyvinylpyridine in 3.0 mL dichloromethane were added 8.8 μL (0.069 mMol) 4-chlorobenzoyl chloride. The reaction mixture was mixed for 1 day at ambient temperature. To this mixture were then added 160 mg (0.128 mMol) aminomethylated polystyrene and the reaction mixed for an additional 18 hours. The reaction mixture was diluted with 1.0 mL methanol, treated with potassium carbonate, and filtered through a short column of sodium sulfate. The filtrate was then evaporated to give 2.9 mg (17%) of the title compound as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.6 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-chlorobenzoyl chloride | 0.069 mMol, 8.8 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | methanol | 1.0 mL | CO | CH4O
product | 6-(4-chlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 2.9 mg, 17% | ClC1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C21H22ClN3O
